US04163846
3-Amino-2-phenyl-6-methyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (I)
3,5-Diamino-1-phenylpyrazole-4-carboxamide (10.8 g) prepared as in Example 58 was heated with acetic acid (15 ml) and acetic anhydride (5.1 g) for 16 hours. The solution was poured into 2 M sodium hydroxide solution (200 ml) and a trace of solid was filtered off. The filtrate was adjusted to pH=7 with concentrated hydrochloric acid to precipitate 3-amino-2-phenyl-6-methyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (6.1 g) which was recrystallised from 2-methoxyethanol (3.6 g yield), m.p. 279°-281° C.

reactant | 3,5-Diamino-1-phenylpyrazole-4-carboxamide | 10.8 g | NC1=NN(C(=C1C(=O)N)N)C1=CC=CC=C1 | C10H11N5O
reactant | acetic anhydride | 5.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 2 M, 200 ml | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-Amino-2-phenyl-6-methyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | NC=1N(N=C2N=C(NC(C21)=O)C)C2=CC=CC=C2 | C12H11N5O
